US07411072B2
5-Bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Dissolve 5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (10.00 g, 48.48 mmol) in CHCl3 (125 mL) and add 4-(dimethylamino)pyridinium tribromide (19.35 g, 53.32 mmol). Stir at room temperature for 2.5 h and quench with saturated aqueous Na2SO3. Separate layers, wash organics with saturated aqueous NaHCO3, then H2O. The dried organics (MgSO4) and concentrated to a yellow oil. Purify crude product by loading onto a 20 g plug of silica gel and eluting with hexanes until eluent shows no UV activity. Combine and concentrate hexane washes to afford 13.01 g (94%) of the title compound as a white solid, mp 73.6° C. HPLC shows 99% purity.

reactant | 5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 48.48 mmol, 10.00 g | C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H14
reactant | 4-(dimethylamino)pyridinium tribromide | 53.32 mmol, 19.35 g | [Br-].[Br-].[Br-].CN(C1=CC=[NH+]C=C1)C.CN(C)C1=CC=[NH+]C=C1.CN(C)C1=CC=[NH+]C=C1
solvent | CHCl3 | 125 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 13.01 g, 94% | BrC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H13Br
